US04264620
35.8 g of (±)-2-(2-hydroxyphenyl)-5-pyrrolinecarboxylic acid is reacted with 34.5 g of (-)-1,2-diphenylethylamine to give the diastereoisomer salt. The salt is fractionally recrystallized from ethanol to give (-)-2-(2-hydroxyphenyl)-5-pyrrolinecarboxylic acid (-)-1,2-diphenylethylamine salt, yield 20.0 g (57%), mp. 193°-194° C., [α]D26 -90.0° (c=1.0, methanol). The residual salt in the filtrate is fractionally recrystallized from chloroform to give (+)-2-(2-hydroxyphenyl)-5-pyrrolinecarboxylic acid (-)-1,2-diphenylethylamine salt, yield 18.0 g (51%), mp. 138°-140° C., [α]D26 -20.3° (c=1.2, methanol).

reactant | (±)-2-(2-hydroxyphenyl)-5-pyrrolinecarboxylic acid | 35.8 g | OC1=C(C=CC=C1)C1(N=CCC1)C(=O)O | C11H11NO3
reactant | (-)-1,2-diphenylethylamine | 34.5 g | C1(=CC=CC=C1)C(CC1=CC=CC=C1)N | C14H15N
product | (-)-2-(2-hydroxyphenyl)-5-pyrrolinecarboxylic acid (-)-1,2-diphenylethylamine salt | C1(=CC=CC=C1)C(CC1=CC=CC=C1)N.OC1=C(C=CC=C1)C1(N=CCC1)C(=O)O | InChI=1S/C14H15N.C11H11NO3/c15-14(13-9-5-2-6-10-13)11-12-7-3-1-4-8-12;13-9-5-2-1-4-8(9)11(10(14)15)6-3-7-12-11/h1-10,14H,11,15H2;1-2,4-5,7,13H,3,6H2,(H,14,15)
